US06277872B1
a) Preparation of methyl 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoate
15.2 g of methyl salicylate are dissolved in 200 ml of anhydrous acetonitrile and stirred with 4.4 g of 60% sodium hydride suspension in oil at ambient temperature for 60 minutes. To this solution is added 200 ml of absolute acetonitrile, then it is mixed with 17.4 g of 2-(N,N-dimethylamino)ethylchloride hydrochloride and 5.2 g of 60% sodium hydride suspension in oil. This solution is also stirred for 60 minutes at ambient temperature. The combined solutions are refluxed for 1 hour and then evaporated down in vacuo. The residue is mixed with water and extracted with ethyl acetate. The organic phase is dried over sodium sulphate, the solvent is distilled off in vacuo and the residue is chromatographed on silica gel with ethyl acetate/methanol (1:1). In this way, 14.6 g of a yellow oil are obtained (65% of theory).

reactant | methyl salicylate | 15.2 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | sodium hydride | 4.4 g | [H-].[Na+]
reactant | 2-(N,N-dimethylamino)ethylchloride hydrochloride | 17.4 g | Cl.CN(C)CCCl
reactant | sodium hydride | 5.2 g | [H-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | methyl 2-[2-(N,N-dimethylamino)ethyl]oxy-benzoate | 14.6 g | CN(C)CCOC1=C(C(=O)OC)C=CC=C1 | C12H17NO3
